US08168784B2
reacting (2E)-1-(4-chlorophenyl)-4,4-dimethyl-2-(((triisopropylsilyl)oxy)methylene)cyclohexanol, (2E)-1-(4-chlorophenyl)-4,4-dimethyl-2-(((trimethylsilyl)oxy)methylene)cyclohexanol, or (2E)-2-(((tert-butyl(dimethyl)silyl)oxy)methylene)-1-(4-chlorophenyl)-4,4-dimethylcyclohexanol and hydrochloric acid to provide 2-(4-chlorophenyl)-5,5-dimethylcyclohex-1-ene-1-carbaldehyde and isolating or not isolating the 2-(4-chlorophenyl)-5,5-dimethylcyclohex-1-ene-1-carbaldehyde;

reactant | (2E)-1-(4-chlorophenyl)-4,4-dimethyl-2-(((triisopropylsilyl)oxy)methylene)cyclohexanol | ClC1=CC=C(C=C1)C1(/C(/CC(CC1)(C)C)=C/O[Si](C(C)C)(C(C)C)C(C)C)O | C24H39ClO2Si
reactant | (2E)-1-(4-chlorophenyl)-4,4-dimethyl-2-(((trimethylsilyl)oxy)methylene)cyclohexanol | ClC1=CC=C(C=C1)C1(/C(/CC(CC1)(C)C)=C/O[Si](C)(C)C)O | C18H27ClO2Si
reactant | (2E)-2-(((tert-butyl(dimethyl)silyl)oxy)methylene)-1-(4-chlorophenyl)-4,4-dimethylcyclohexanol | [Si](C)(C)(C(C)(C)C)O\C=C/1\C(CCC(C1)(C)C)(O)C1=CC=C(C=C1)Cl | C21H33ClO2Si
reactant | hydrochloric acid | Cl | ClH
product | 2-(4-chlorophenyl)-5,5-dimethylcyclohex-1-ene-1-carbaldehyde | ClC1=CC=C(C=C1)C1=C(CC(CC1)(C)C)C=O | C15H17ClO
